US07074817B2
(1-Benzyl-5-phenyl-1H-indol-3-yl)(oxo)acetic acid
{1-Benzyl-5-phenyl-1H-indol-3-yl}(oxo)acetic acid was prepared from ethyl {1-benzyl-5-phenyl-1H-indol-3-yl}(oxo)acetate (0.680 g, 1.77 mmol), and potassium hydroxide (0.322 g, 5.74 mmol) in THF (10 mL) and water (10 mL), following the procedure described in Step 4 of Example 5. Crystallization from acetonitrile, and drying for 3.5 hours at 70° C., yielded the title compound as a yellow solid (0.392 g, 62%), mp: 193-195° C. (dec.). Mass spectrum (+ES, [M+H]+) m/z 356; 1 HNMR (500 MHz, DMSO-d6): δ 13.7-14.2 (br s, 1H), 8.7 (s, 1H), 8.45 (d, 1H, J=0.61 Hz), 7.65 (m, 3H), 7.55 (dd, 1H, J=8.7 Hz and 1.1 Hz), 7.45 (t, 2H, J=7.6 Hz), 7.25-7.35 (m, 6H), and 5.65 ppm (s, 2H).

reactant | ethyl {1-benzyl-5-phenyl-1H-indol-3-yl}(oxo)acetate | 1.77 mmol, 0.680 g | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C1=CC=CC=C1)C(C(=O)OCC)=O | C25H21NO3
reactant | potassium hydroxide | 5.74 mmol, 0.322 g | [OH-].[K+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | (1-Benzyl-5-phenyl-1H-indol-3-yl)(oxo)acetic acid | 0.392 g, 62% | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C1=CC=CC=C1)C(C(=O)O)=O | C23H17NO3
